US06740647B1
e) 5-Amidino-2-(N-BOC-aminomethyl)-4-trifluoromethylthiazole [sic]
2-(N-BOC-Aminomethyl)-4-trifluoromethylthiazole-5-thioamide [sic] (2.5 g, 7.32 mmol) was dissolved in dichloromethane (10 ml), and iodomethane (10.4 g, 73.24 mmol) was added. Then, the mixture was stirred for 48 hours at room temperature. After the solvent had been removed on a rotary evaporator, the residue was taken up in methanol (5 ml), and 10% strength methanolic ammonium acetate solution (8.5 ml, 10.98 mmol) was added. After the mixture had been stirred for 4 days at room temperature, the solution of the crude product was passed over an acetate-loaded ion exchanger and the solvent was removed on a rotary evaporator. The crude product was purified by flash chromatography. Yield: 0.8 g (2.08 mmol, 28%).

reactant | 2-(N-BOC-Aminomethyl)-4-trifluoromethylthiazole-5-thioamide | 7.32 mmol, 2.5 g | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(F)(F)F)C(N)=S | C11H14F3N3O2S2
reactant | iodomethane | 73.24 mmol, 10.4 g | IC | CH3I
reactant | ammonium acetate | 10.98 mmol, 8.5 ml | C(C)(=O)[O-].[NH4+]
reactant | acetate | C(C)(=O)[O-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-Amidino-2-(N-BOC-aminomethyl)-4-trifluoromethylthiazole | C(N)(=N)C1=C(N=C(S1)CNC(=O)OC(C)(C)C)C(F)(F)F | C11H15F3N4O2S
